US09084794B2
a) 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide
To a solution of 2-(4-bromo-2,6-difluorophenyl)-2-hydroxyacetamide (4.56 g, 17.1 mmol) and triethylamine (7.17 mL, 51.4 mmol) in anhydrous acetonitrile (25 mL) was added neat methanesulfonyl chloride (1.7 mL, 22.3 mmol). The reaction mixture was stirred vigorously at 40° C. for 3 h, at which point the reaction had proceeded to completion. To the mesylate intermediate was added more triethylamine (7.2 mL, 51.4 mmol) followed by 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (4.23 g, 17.1 mmol). The reaction was heated at 90° C. for 3 h until starting material was consumed. The reaction was diluted with water (25 mL) then the phases were separated and the aqueous phase was extracted with ether (3×25 mL). The combined ether phases were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification of the residue by flash chromatography (65-100% of 10% methanol in dichloromethane:dichloromethane) provided the title product (1.26 g, 16% yield). MS(ES)+ m/e 458 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 0.59-0.69 (m, 2 H) 0.75-0.86 (m, 2 H) 1.61-1.74 (m, 2 H) 1.85-1.95 (m, 2 H) 2.21 (s, 1 H) 2.53-2.64 (m, 2 H) 2.66-2.76 (m, 3 H) 2.79 (br. s., 1 H) 3.96 (s, 2 H) 4.68 (s, 1 H) 5.64 (br. s., 1 H) 7.16-7.26 (m, 2 H) 7.35 (br. s., 1 H).

reactant | 2-(4-bromo-2,6-difluorophenyl)-2-hydroxyacetamide | 17.1 mmol, 4.56 g | BrC1=CC(=C(C(=C1)F)C(C(=O)N)O)F | C8H6BrF2NO2
reactant | triethylamine | 51.4 mmol, 7.17 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 22.3 mmol, 1.7 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | triethylamine | 51.4 mmol, 7.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 17.1 mmol, 4.23 g | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 1.26 g, 16% yield | BrC1=CC(=C(C(=C1)F)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H22BrF2N3O3
